US07728020B2
Preparation of (E)-(R)-4-tert-butoxycarbonylamino-6-(4-heptyloxy-phenyl)-4-methyl-hex-2-enoic acid ethyl ester
To a stirred solution of (diethoxy-phosphoryl)-acetic acid ethyl ester (429 mg, 1.92 mMol) in dry THF (7 ml) is added n-butyllithium (0.66 ml, 2.5M in hexane, 1.66 mMol) at −78° C. The mixture was stirred at −78° C. for 1 hour. After that time, a solution of [(R)-1-formyl-3-(4-heptyloxy-phenyl)-1-methyl-propyl]-carbamic acid tert-butyl ester (500 mg, 1.28 mMol) in THF (4 ml) is added and stirring is continued at −78° C. for 1.5 hours. The mixture is allowed to warm to RT and then stirred at RT for 2 hours. The reaction mixture is then poured onto a biphasic mixture of AcOEt and NaHCO3 (saturated aqueous solution) and the aqueous phase is extracted twice with AcOEt. The combined organic layers are dried (Na2SO4) and concentrated under reduced pressure. Column chromatography eluting with 4% AcOEt in toluene gives the title compound as a colourless oil.

reactant | (diethoxy-phosphoryl)-acetic acid ethyl ester | 1.92 mMol, 429 mg | C(C)OC(CP(=O)(OCC)OCC)=O | C8H17O5P
reactant | n-butyllithium | 1.66 mMol, 2.5M, 0.66 ml | C(CCC)[Li]
reactant | [(R)-1-formyl-3-(4-heptyloxy-phenyl)-1-methyl-propyl]-carbamic acid tert-butyl ester | 1.28 mMol, 500 mg | C(C)(C)(C)OC(N[C@@](CCC1=CC=C(C=C1)OCCCCCCC)(C)C=O)=O | C23H37NO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (E)-(R)-4-tert-butoxycarbonylamino-6-(4-heptyloxy-phenyl)-4-methyl-hex-2-enoic acid ethyl ester | C(C)OC(\C=C\[C@](CCC1=CC=C(C=C1)OCCCCCCC)(C)NC(=O)OC(C)(C)C)=O | C27H43NO5
